US06664214B1
Into 150 ml of fluorobenzene was dissolved 5.61 g of methyl 2-(2-chloro-5-methylphenoxy)propionate obtained above; 4.37 g of N-bromosuccinimide and then 0.2 g of 1,1′-azobis(cyclohexanecarbonitrile) were added, and the mixture was stirred under reflux for 2 hours. After the reaction was completed, the solution was allowed to left for cooling; the reaction solution was filtered; the filtrate was concentrated under reduced pressure; and the residue was subjected to silica gel chromatography to give 6.59 g of methyl 2-[5-(bromomethyl)-2-chlorophenoxy]propionate.

reactant | methyl 2-(2-chloro-5-methylphenoxy)propionate | 5.61 g | ClC1=C(OC(C(=O)OC)C)C=C(C=C1)C | C11H13ClO3
reactant | N-bromosuccinimide | 4.37 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | 1,1′-azobis(cyclohexanecarbonitrile) | 0.2 g | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
solvent | fluorobenzene | 150 ml | FC1=CC=CC=C1 | C6H5F
product | methyl 2-[5-(bromomethyl)-2-chlorophenoxy]propionate | 6.59 g | BrCC=1C=CC(=C(OC(C(=O)OC)C)C1)Cl | C11H12BrClO3
